US07919504B2
6-(5-(Methylsulfonyl)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole.
To a stirred mixture of 6-(5-(methylthio)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole (0.20 g, 0.75 mmol) and hydrogen peroxide (0.19 mL, 1.9 mmol) in AcOH (2.00 mL, 35 mmol) was added sodium tungstate (0.0026 mL, 0.038 mmol). The resulting mixture was stirred at room temperature 16 hours. The mixture was diluted with aqueous NaHCO3 (10 mL), water (10 mL) and EtOAc (5 mL). The separated aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give the product as a residue which was used without further purification.

reactant | 6-(5-(methylthio)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole | 0.75 mmol, 0.20 g | CSC1=NN=C(S1)C1=CC2=C(C=NS2)C=C1 | C10H7N3S3
reactant | hydrogen peroxide | 1.9 mmol, 0.19 mL | OO | H2O2
reactant | AcOH | 35 mmol, 2.00 mL | CC(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | sodium tungstate | 0.038 mmol, 0.0026 mL | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 6-(5-(Methylsulfonyl)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole | CS(=O)(=O)C1=NN=C(S1)C1=CC2=C(C=NS2)C=C1 | C10H7N3O2S3
